US08466167B2
Step 1: 3-chloro-5-methoxypicolinonitrile
To a solution of 3,5-dichloropicolinonitrile (1.0 eq.) in dimethyl formamide (DMF) (0.5 M) was added sodium methoxide (1.5 eq.) and heated to 75° C. After stirring for 14 hours, the reaction was diluted with ethyl acetate and water. The organic layer was washed with saturated aqueous NaHCO3 three times, water twice, dried over anhydrous MgSO4, and concentrated en vacuo. The crude residue was purified by a COMBIFLASH® system (ISCO) using 15% ethyl acetate in hexane to give a mixture of two methoxy regioisomers, one of which was the desired product. The mixture was carried onto the next step without further purification.

reactant | 3,5-dichloropicolinonitrile | 1.0 eq. | ClC=1C(=NC=C(C1)Cl)C#N | C6H2Cl2N2
reactant | sodium methoxide | 1.5 eq. | C[O-].[Na+]
solvent | dimethyl formamide | 0.5 M | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-chloro-5-methoxypicolinonitrile | ClC=1C(=NC=C(C1)OC)C#N | C7H5ClN2O
